US06670480B2
(R)-1-(6-Choro-pyridin-3-yl)-ethane-1,2-diol
To a cooled 5° C., stirred slurry of AD_Mix-P® (150 g) in water (530 mL) and t-butanol (450 mL) was added a solution of 2-chloro-5-vinylpyridine (15.0 grams) in t-butanol (80 mL). After 6 hours, solid sodium sulfite (160 grams) was added and the resulting slurry was allowed to stir at ambient temperature for 30 minutes. This mixture was extracted with ethyl acetate (3 times), the combined organic layers were washed with saturated aqueous brine, dried over sodium sulfate and concentrated in vacuo. The resulting oil was chromatographed on 500 grams of silica gel eluting with a gradient of ethyl acetate (70-80%)/hexanes to afford the title compound as a colorless oil, 17.8 grams 1H NMR (400 MHz, CDCl3): δ=8.35 (s, 1H); 7.71(d, 1H); 7.30(d, 1H); 4.85 (dd, 1H); 3.63 (dd, 1H).

reactant | 2-chloro-5-vinylpyridine | 15.0 grams | ClC1=NC=C(C=C1)C=C | C7H6ClN
reactant | sodium sulfite | 160 grams | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 530 mL | O | H2O
solvent | t-butanol | 80 mL | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 450 mL | C(C)(C)(C)O | C4H10O
product | (R)-1-(6-Choro-pyridin-3-yl)-ethane-1,2-diol | ClC1=CC=C(C=N1)[C@H](CO)O | C7H8ClNO2
